US08536157B2
A solution of 3-fluoro-4-methoxyacetophenone (0.064 g, 0.380 mmol), O-(4-nitrobenzyl)hydroxylamine hydrochloride (0.111 g, 0.552 mmol) and pyridine (0.14 ml, 1.73 mmol) in ethanol (7 ml) was stirred at reflux under nitrogen for 4 h and cooled to room temperature. The solution was concentrated to a yellow oil which was diluted with water/dichloromethane. The suspension was extracted with dichloromethane (×3). The combined organic phases were washed with water and brine, dried over magnesium sulphate, filtered and concentrated to a yellow oil. The crude product was purified by column chromatography (SiO2), eluting with 9:1 petrol/ethyl acetate, to give a yellow oil which was triturated with petrol, and the resultant off white solid was further washed with petrol to give 3′-fluoro-4′-methoxyacetophenone-O-4-nitrobenzyloxime (CP9-123) as a white solid (0.079 g, 65%), m.p. 67-68°.

reactant | 3-fluoro-4-methoxyacetophenone | 0.380 mmol, 0.064 g | CC(=O)C1=CC(=C(C=C1)OC)F | C9H9FO2
reactant | O-(4-nitrobenzyl)hydroxylamine hydrochloride | 0.552 mmol, 0.111 g | Cl.[N+](=O)([O-])C1=CC=C(CON)C=C1
reactant | pyridine | 1.73 mmol, 0.14 ml | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 7 ml | C(C)O | C2H6O
product | 3′-fluoro-4′-methoxyacetophenone-O-4-nitrobenzyloxime | 0.079 g, 65% | [N+](=O)([O-])C1=CC=C(CON=C(C)C2=CC(=C(C=C2)OC)F)C=C1 | C16H15FN2O4
